US05045565
To a solution of 2,2-dimethylaziridine (5.42 g; 0.076 mole; sold by Polysciences, Inc., Warrington, PA) in pyridine (100 mL) cooled in an ice bath, is added p-toluenesulfonyl chloride (21.81 g; 0.114 mole) in one portion. The reaction is stirred at 0° C. for 2 hours; diluted with ether (400 mL); washed with cold 10% H3PO4 (2×150 mL), with a saturated NaHCO3 solution (3×150 mL) and brine (1×150 mL); and dried over MgSO4. Rotary evaporation of the solution affords a yellowish solid which is crystallized from ethyl acetate to yield the product 2,2-dimethyl-N-p-toluenesulfonyl-aziridine (4.48 g). 1H NMR (CDCl3):1.53 (6H, s), 2.45 (5H, m), 7.2-8.0 ppm (4H, m, aromatics).

reactant | 2,2-dimethylaziridine | 0.076 mole, 5.42 g | CC1(NC1)C | C4H9N
reactant | p-toluenesulfonyl chloride | 0.114 mole, 21.81 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
solvent | pyridine | 100 mL | N1=CC=CC=C1 | C5H5N
solvent | ether | 400 mL | CCOCC | C4H10O
product | 2,2-dimethyl-N-p-toluenesulfonyl-aziridine | 4.48 g | CC1(N(C1)S(=O)(=O)C1=CC=C(C=C1)C)C | C11H15NO2S
